US05607898
A 30-ml eggplant type flask was charged with 0.25 g (0.69 mmol) of 4,5,8-trimethyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide, 5 ml of dichloromethane, 5 ml of water and 0.09 g (0.69 mmol, 1 equivalent) of potassium carbonate, and 0.11 g (0.76 mmol, 1.1 equivalents) of n-propanesulfonyl chloride was dropwise added with stirring at room temperature. 5 mg of benzyltriethylammonium chloride (BTEAC) was added, and the mixture was allowed to react at the above temperature for 2 hours and then liquid-separated. An aqueous layer was extracted with dichloromethane. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The solvent was distilled off to give 0.35 g of a crude product, which was recrystalized from ethanol to give 0.31 g (yield 95%) of 4,5,8-trimethyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide (Compound No. 51).

reactant | 4,5,8-trimethyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.69 mmol, 0.25 g | CC1CCS(C2=C(C=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)C)(=O)=O | C18H22N2O4S
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | potassium carbonate | 0.69 mmol, 0.09 g, 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanesulfonyl chloride | 0.76 mmol, 0.11 g, 1.1 equivalents | C(CC)S(=O)(=O)Cl | C3H7ClO2S
catalyst | benzyltriethylammonium chloride | 5 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 5 ml | O | H2O
product | 4,5,8-trimethyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.31 g, yield 95% | CC1CCS(C2=C(C=C(C(=C12)C)C(=O)C=1C=NN(C1OS(=O)(=O)CCC)CC)C)(=O)=O | C21H28N2O6S2
